US09290451B2
g) 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=428.1 [M+H]+.

reactant | 6-(3-chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)C1COCC1 | C16H14ClNO3
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-(3-Chloro-phenyl)-5-(tetrahydro-furan-3-yl)-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide | CC(C)(C=1SC=CN1)NC(=O)C1=NC(=C(C=C1)C1COCC1)C1=CC(=CC=C1)Cl | C22H22ClN3O2S
